US04912100
To a solution of 30.2 g (0.18 mole) of dehydroacetic acid and 30.0 g (0.19 mole) of decyl aldehyde in 300 ml of chloroform was added dropwise 4.8 g of piperidine at room temperature. The mixture was refluxed for 7 hours, while removing the water formed on the reaction with the aid of a Soxhlet extractor charged with anhydrous sodium sulfate. After the reaction, the reaction mixture was extracted with 600 ml of chloroform. The organic layer was separated, washed with 2N HCl and then with water, and dried over anhydrous sodium sulfate. The extract was concentrated under a reduced pressure and 60 ml of ether/hexane (1/2) was added to the residue. The mixture was allowed to stand overnight. The precipitated crystal was recovered by filtration and recrystallized from tetrahydrofuran to obtain 9.5 g (yield: 17%) of 3-(2-dodecenoyl)-6-methyl-2H-pyran-2,4(3H)-dione in the form of a white crystal, m.p. 112°-113° C.

reactant | dehydroacetic acid | 0.18 mole, 30.2 g | CC1=CC(=O)C(C(=O)O1)C(=O)C | C8H8O4
reactant | piperidine | 4.8 g | N1CCCCC1 | C5H11N
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(2-dodecenoyl)-6-methyl-2H-pyran-2,4(3H)-dione | 9.5 g, yield: 17% | C(C=CCCCCCCCCC)(=O)C1C(OC(=CC1=O)C)=O | C18H26O4
